US08703978B2
4-Trimethysilylethynyl-N,N-dibutylaniline
Cuprous iodide (23 mg, 1 mol %) was added to 4-iodo-N,N-dibutylaniline (4 g, 12.1 mmol), trimethylsilylacetylene (2.37 g, 24.2 mmol) and Pd(PPh3)2Cl2 (84 mg, 1 mol %) in dry Et3N (40 mL) under nitrogen. The resulting solution was stirred at room temperature for 16 h, diluted with benzene (50 mL), filtered and the solvent removed under reduced pressure. The residue was chromatographed on alumina using benzene as eluent. The solvent was removed under reduced pressure to give the title compound (3.0 g, 82%) as a pale yellow oil.

reactant | 4-iodo-N,N-dibutylaniline | 12.1 mmol, 4 g | IC1=CC=C(N(CCCC)CCCC)C=C1 | C14H22IN
reactant | trimethylsilylacetylene | 24.2 mmol, 2.37 g | C[Si](C)(C)C#C | C5H10Si
solvent | Et3N | 40 mL | CCN(CC)CC | C6H15N
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
catalyst | Pd(PPh3)2Cl2 | 84 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-Trimethysilylethynyl-N,N-dibutylaniline | 3.0 g, 82% | C[Si](C)(C)C#CC1=CC=C(N(CCCC)CCCC)C=C1 | C19H31NSi
